US08039450B2
A mixture of 4-(4-bromo-3-formylphenoxy)-3-hydroxybenzonitrile (20.5 g, 64.5 mmol), bis(pinacolato)diboron (17.2 g, 67.7 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.32 g, 1.61 mmol), and potassium acetate (19.1 g, 194 mmol) in 1,4-dioxane (260 mL) was stirred under nitrogen atmosphere at 80° C. overnight. The mixture was filtered through a Celite pad, and the solvent was removed under reduced pressure. Silica gel column (ethyl acetate) gave methyl 4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-3-hydroxybenzonitrile (25.1 g).

reactant | 4-(4-bromo-3-formylphenoxy)-3-hydroxybenzonitrile | 64.5 mmol, 20.5 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)O)C=C1)C=O | C14H8BrNO3
reactant | bis(pinacolato)diboron | 67.7 mmol, 17.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 194 mmol, 19.1 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 260 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.61 mmol, 1.32 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-3-hydroxybenzonitrile | 25.1 g | CC1=C(C#N)C=CC(=C1O)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C21H22BNO5
